US07834051B2
(6RS,7RS)-7-(tert-butyldimethylsilyloxy)-6-methyl-5-azaspiro[2.4]heptan-4-one
To a solution of ethyl 1-[(1RS,2RS)-1-(tert-butyldimethylsilyloxy)-2-(dibenzylamino)propyl]cyclopropanecarboxylate (1.36 g) in methanol (16 mL) was added 10% palladium hydroxide-carbon (containing 50% water, 280 mg), and the mixture was stirred at room temperature for 18 hr under a hydrogen atmosphere. The reaction mixture was filtered. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=10/1→1/4) to give the title compound as a colorless solid (yield: 164 mg, yield:22.8%).

reactant | ethyl 1-[(1RS,2RS)-1-(tert-butyldimethylsilyloxy)-2-(dibenzylamino)propyl]cyclopropanecarboxylate | 1.36 g | [Si](C)(C)(C(C)(C)C)OC(C(C)N(CC1=CC=CC=C1)CC1=CC=CC=C1)C1(CC1)C(=O)OCC | C29H43NO3Si
solvent | methanol | 16 mL | CO | CH4O
catalyst | palladium hydroxide carbon | 280 mg | [OH-].[Pd+2].[OH-].[C]
product | (6RS,7RS)-7-(tert-butyldimethylsilyloxy)-6-methyl-5-azaspiro[2.4]heptan-4-one | yield: 164 mg, yield:22.8% | [Si](C)(C)(C(C)(C)C)OC1C(NC(C12CC2)=O)C | C13H25NO2Si
